* C:\git-checkouts\scbs\ltspice\diff_amp_sim_ac.asc
V1 5v 0 5
V2 dn inm 0 AC 1
Q1 N001 N003 hello 0 2n3904
R1 5v N001 1k
Q2 up N002 5v 0 2n3906
R2 up 0 1k
R5 up dn 1
R6 dn 0 25
R7 up N005 500k
R8 dn N006 500k
XU2 N005 N006 5v 0 csense level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R9 N006 csense 8.25Meg
R10 N005 0 8.25Meg
R12 N002 N001 100
V3 0 0 3
XU1 N004 inm 5v 0 N003 level3a Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 Phimargin=45 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C5 dn 0 1µ
R4 N004 0 10k
R11 N004 0 10k
R13 hello dn 10k
R14 hello 0 1
C1 hello dn 0.1µ
C4 N004 0 0.1µ
.model NPN NPN
.model PNP PNP
.lib C:\Users\jkail\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.bjt
* Q1 inverts ouptut polarity\nand provides base drive for
.ac dec 1000 1m 1G
.lib UniversalOpAmp2.lib
.lib UniversalOpAmp3a.lib
.backanno
.end
